US05084453
5.4 g (17 mmol) of 3,4-di(2-methoxyethoxymethoxy)-benzaldehyde was dissolved in 216 ml of methylene chloride, and 4.4 g (20 mmol) of 80% m-chloroperbenzoic acid was added thereto. The mixture was refluxed at a boiling point for 20 hours. The reaction solution was washed with a sodium bicarbonate aqueous solution and with a saturated sodium chloride aqueous solution and then dried. The solvent was distilled off under reduced pressure to obtain 4.85 g (yield: 86%) of O-formyl-3,4-di(2-methoxyethoxymethoxy)phenol. The product was used for the subsequent reaction without purification.

reactant | 3,4-di(2-methoxyethoxymethoxy)-benzaldehyde | 17 mmol, 5.4 g | COCCOCOC=1C=C(C=O)C=CC1OCOCCOC | C15H22O7
reactant | m-chloroperbenzoic acid | 20 mmol, 4.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 216 ml | C(Cl)Cl | CH2Cl2
product | O-formyl-3,4-di(2-methoxyethoxymethoxy)phenol | 4.85 g, yield: 86% | C(=O)OC1=CC(=C(C=C1)OCOCCOC)OCOCCOC | C15H22O8
